US07345068B2
3-[5-Bis[2-(benzyloxy)ethyl]amino-naphth-2-yl]-N-trifluoroacetyl-L-phenylalanine ethyl ester was synthesized in a similar manner to Example 49 from N-trifluoroacetyl-3-hydroxy-L-phenylalanine ethyl ester and 5-bis[2-(benzyloxy)ethyl]amino-2-naphthaleneboronic acid.

reactant | N-trifluoroacetyl-3-hydroxy-L-phenylalanine ethyl ester | C(C)OC([C@@H](NC(C(F)(F)F)=O)CC1=CC(=CC=C1)O)=O | C13H14F3NO4
reactant | 5-bis[2-(benzyloxy)ethyl]amino-2-naphthaleneboronic acid | C(C1=CC=CC=C1)OCCN(C1=C2C=CC(=CC2=CC=C1)B(O)O)CCOCC1=CC=CC=C1 | C28H30BNO4
product | 3-[5-Bis[2-(benzyloxy)ethyl]amino-naphth-2-yl]-N-trifluoroacetyl-L-phenylalanine ethyl ester | C(C)OC([C@@H](NC(C(F)(F)F)=O)CC1=CC(=CC=C1)C1=CC2=CC=CC(=C2C=C1)N(CCOCC1=CC=CC=C1)CCOCC1=CC=CC=C1)=O | C41H41F3N2O5
